US08012956B2
A mixture of methyl 5-amino-4-iodo-2-(trifluoromethyl)benzoate (major) and methyl 3-amino-4-iodo-2-(trifluoromethyl)benzoate (minor) in a 4:1 ratio (prepared in Example 51 Step 4) (1.08 g, 3.13 mmol) was dissolved in DMF (17 mL), and the mixture was sparged with nitrogen for 15 minutes. Zinc cyanide (257 mg, 2.19 mmol) and tetrakis(triphenylphosphine)palladium(0) (362 mg, 0.313 mmol) were added and the mixture was stirred at 100° C. for 15 h. The reaction mixture was cooled to ambient temperature and was filtered through celite. The filter cake was washed with ethyl acetate and the filtrate was washed with 5% lithium chloride. The aqueous wash was back-extracted with ethyl acetate (2×). The combined organic portion was washed with 10% lithium chloride and brine, was dried over sodium sulfate then filtered and concentrated to afford a residue which was purified by column chromatography (silica gel, 30-50% ethyl acetate in hexanes) to afford pure methyl 5-amino-4-cyano-2-(trifluoromethyl)benzoate (556 mg, 2.28 mmol, 73% yield). 1H NMR (400 MHz, CDCl3): δ 7.76 (s, 1H), 7.10 (s, 1H), 4.88 (br s, 2H), 3.93 (s, 3H); GCMS for C10H7F3N2O2: 244 (M+).

reactant | methyl 5-amino-4-iodo-2-(trifluoromethyl)benzoate | NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)I | C9H7F3INO2
reactant | methyl 3-amino-4-iodo-2-(trifluoromethyl)benzoate | NC=1C(=C(C(=O)OC)C=CC1I)C(F)(F)F | C9H7F3INO2
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 2.19 mmol, 257 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.313 mmol, 362 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-amino-4-cyano-2-(trifluoromethyl)benzoate | 2.28 mmol, 556 mg, 73% yield | NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)C#N | C10H7F3N2O2
